US07109229B2
(d) 3-(6-Ethyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (370 mg, 1.97 mmol) and methyl 2-(6-ethyl-1H-indol-3-yl)oxoacetate (446 mg, 1.93 mmol) in DMF (8.0 mL) at 4° C. under N2, was added a 1.0 M solution of potassium tert-butoxide in THF (6.0 mL, 6.0 mmol) dropwise over 20 min. The reaction was heated to 50° C. and stirred for 7 h at this temperature. The reaction mixture was then cooled to room temp and quenched with 1.0 N hydrochloric acid (5.0 mL), extracted with EtOAc (2×15 mL), washed with saturated NaHCO3 (30 mL), saturated NaCl (30 mL), dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 50% EtOAc/hexanes containing 1% TEA) gave the title compound (214 mg, 30%) as a red solid, mp 98–100° C. 1H NMR (DMSO-d6) δ 11.69 (s, 1H), 11.06 (s, 1H), 7.78 (m, 1H), 7.60 (m, 1H), 7.28 (m, 1H), 7.16 (s, 1H), 6.95 (m, 1H), 6.86 (m, 1H), 6.50 (m, 1H), 6.32 (m, 1H), 6.20 (m, 1H), 3.69 (s, 3H), 3.32 (m, 2H), 1.11 (m, 3H). MS (ESI, negative mode): m/z=368 [C23H19N3O2−H]−

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.97 mmol, 370 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(6-ethyl-1H-indol-3-yl)oxoacetate | 1.93 mmol, 446 mg | C(C)C1=CC=C2C(=CNC2=C1)C(C(=O)OC)=O | C13H13NO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 6.0 mmol, 6.0 mL | C1CCOC1 | C4H8O
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | 3-(6-Ethyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 214 mg, 30% | C(C)C1=CC=C2C(=CNC2=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C23H19N3O2
